Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't know why I'm here." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
___, including initial consultation by Dr. ___ and Dr. 
___ dated ___,
resident accept note by Dr. ___ dated ___. 
. 
Briefly, this is a ___ year old man with history of 
schizophrenia, s/p 1 prior psychiatric hospitalization, seen at 
___ by Dr. ___, history of assaultive behaviors 
towards mother in the past, who presented to ___ ED on a 
___ from ___ due to concerns for decompensated psychosis 
in the setting of medication noncompliance. 
. 
Upon initial interview, patient was noted to be quite upset, 
increasingly agitated, attempting to leave the room. Per OMR, 
his outpatient treaters were concerned for disorganized behavior 
with increased self dialoguing. Of note, the patient was unaware 
of why he was in the hospital, stating he would try as many 
times as he could to get out of there. 
. 
Per Dr. ___: she was concerned for patient's 
ability to care for himself given recent non-adherence, noting 
patient has been self dialoguing, appears more disorganized and 
lacks insight. Mother reported patient has been pacing his room 
at night, sleeping only a few hours per night, and appeared
mildly pressured. Patient also believed he was going to apply 
for a job at the "The Spot" when he was actually at ___. 
. 
ED Course: patient notably irritable and agitated in the ED, 
requiring numerous chemical and physical restraints. Of note, 
patient also eloped from the ED on ___, and was found by 
security officers at the ___ and was subsequently 
escorted back to the ED. Patient also assaulted a security 
guard, head butting him. 
. 
Per nursing, patient attempted to elope on the unit several 
times overnight and was subsequently placed on security constant 
observation. 
. 
Just prior to interview, the patient attempted to elope from the 
unit again but ran the wrong direction. On my interview with Mr. 
___, who was an unreliable historian and quite irritable and 
agitated during the examination, he stated he had "no clue" why 
he was in the hospital, and reiterated that he was at "Spots"
applying for a job at the front desk, "I was halfway through the 
application procedure when ___, who is a person who I 
don't like anymore, told me my parents wanted me here to do a 
check up." He then went on about how ___ used to be his 
counselor but now he refused to ever speak with her again,
stating, "If she ever comes to my house again I'll take this jug 
and throw it (water) right at her face." 
. 
Mr. ___ admitted he had been prescribed medication for 
"sleep," but denied having issues with sleep. Reported his 
parents "want me to sleep through the night like them, but I 
don't want to." Reported he had been on risperidone and Abilify 
in the past but stated this caused issues with belly pain and 
headaches. Stated the only medication he wanted to take was 
medical marijuana. When asked how he afforded marijuana, he was 
evasive, but admitted to "legal and illegal ways." 
. 
Patient did admit to head butting a security guard without 
regret, stating, "I should have killed him," and then stated he 
spit on the security guard. When I advised him against hitting 
or spitting on people given the legal repercussions, the patient 
stated, "I don't care." Then went on to state that he wanted me 
to tell his counselor to "kiss my ass." 
. 
Patient was adamant that he be discharged today, stating there 
is nothing wrong and that he wants to leave. No SI/HI, AVH or 
paranoia, but psychiatric review of systems was very limited 
given his irritability. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: schizophrenia 
- SA/SIB: denies/denies 
- Hospitalizations: reportedly one prior psychiatric 
hospitalization in ___ 
- Psychiatrist: Dr. ___
- ___ at ___ 
- Medication Trials: Risperidone, abilify, recently started
on paliperidone but patient has not been adherent 

Past Medical History: Denies 

 
Social History:
Substance History:  Patient drinks alcohol socially, last drink 
___ days ago, "So I'm legal". Patient smokes cannabis 
daily(unknown amount). Denies use of any other drugs currently 
including heroin, PCP, ___, benzos. Denies tobacco 
use. 
.
Social History: ___
Family History:
Paternal aunt with history of schizophrenia with other members 
of the paternal side with history of psychosis 
 
Physical Exam:
VITAL SIGNS:
Temp 98.0 PO; BP 125/87; HR 78; RR 16; oxygen sat 96%

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: attentive to interview
-Orientation: Oriented to person, time, situation, but stated he
was at ___
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: not formally tested, but intact to remote and recent 
-Fund of knowledge: Consistent with education
-Calculations: not assessed 
-Abstraction: Interprets "the grass is always greener on the
other side" inappropriately 
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old man appearing older than stated age,
well groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up, prolonged eye contact with little
blinking, no psychomotor agitation or retardation
-Attitude: Cooperative
-Mood: "Good"
-Affect: restricted range bordering on flat
-Speech: Slowed rate, lowered volume, and normal tone
-Thought process: Linear, some loosening of associations, 
paucity
of spontaneous answers 
-Thought Content:
---Safety: Denies SI/HI
---Delusions: Some evidence of paranoia 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Poor
-Judgment: Poor
 
Pertinent Results:
___ 01:08PM URINE  HOURS-RANDOM
___ 01:08PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:08PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:08PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 
LEUK-NEG
___ 01:08PM URINE  RBC-1 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 01:08PM URINE  MUCOUS-RARE*
___ 11:43AM   GLUCOSE-78 UREA N-17 CREAT-1.3* SODIUM-141 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 11:43AM   estGFR-Using this
___ 11:43AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:43AM   WBC-4.9 RBC-4.64 HGB-14.6 HCT-42.5 MCV-92 
MCH-31.5 MCHC-34.4 RDW-13.4 RDWSD-45.3
___ 11:43AM   NEUTS-44.4 ___ MONOS-8.6 EOS-0.8* 
BASOS-0.8 IM ___ AbsNeut-2.18 AbsLymp-2.22 AbsMono-0.42 
AbsEos-0.04 AbsBaso-0.04
___ 11:43AM   PLT COUNT-182

___ 06:46AM BLOOD ALT-78* AST-178* AlkPhos-54 TotBili-0.9
___ 06:25AM BLOOD %HbA1c-5.7 eAG-117
___ 06:55AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS* 
IgM HAV-NEG
___ 06:25AM BLOOD TSH-1.2
___ 06:55AM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
This is a ___ year old man with history of schizophrenia, s/p 1 
prior psychiatric hospitalization, seen at ___ by Dr. ___ 
___, history of assaultive behaviors towards mother in the 
past, who presented to ___ ED on a ___ from ___ due to 
concerns for decompensated psychosis in the setting of 
medication noncompliance. 
. 
History and presentation concerning for prior diagnosis of 
schizophrenia with recent decompensation in the setting of 
medication noncompliance and cannabis use with collateral 
concerning for worsening disorganized thought process, poor 
sleep, patient self dialoguing at home, profoundly poor insight 
and judgment. ED and hospital course notable for numerous 
attempted elopements and assaultive behaviors towards a security 
guard. Mental status examination on admission notable for 
irritable man with somewhat rapid speech, disorganized and 
illogical thought process with profoundly poor insight and 
judgment. 
. 
Diagnostically, etiology of presentation seems consistent with a 
primary psychotic disorder/affective psychosis, although an 
affective disorder with psychotic features is also on the 
differential. Clearly, cannabis is likely to be contributing to
his psychiatric deterioration, although this does not appear to 
be an entirely substance induced psychosis. 
. 
#. Legal/Safety: patient admitted to Deaconess 4 on a ___, upon admission, declined to sign a CV but later signed one 
on ___, which was accepted. Given initial agitation and 
irritability with numerous attempted elopements, patient was 
initially placed on security constant observation. However, as 
his condition improved, patient was able to be transitioned to 5 
minute checks and then progressed to 15 minute checks. Of note, 
he did not require physical or chemical restraints during this 
hospitalization. 
. 
#. Schizophrenia: as noted above
- Patient tended to decline groups, but later became more 
amenable, attending some groups where he participated 
appropriately. 
- Given psychosis and concern for medication noncompliance, we 
started Invega at 6 mg po daily and titrated to 9 mg po daily. 
After discussion of the risks and benefits, the patient became 
amenable to initiation of Invega Sustenna. He received his 
loading dose of 234 mg IM on ___ and a maintenance dose of 156 
mg IM on ___. Of note he tolerated this medication well without 
complaints of side effects
- Given level of agitation and irritability during his initial 
hospitalization, the patient was also offered Haldol 10 mg po 
TID prn, Benadryl 50 mg po TID PRN and was offered Ativan 2 mg 
po bid standing in addition to prn doses. Of note, he tolerated 
these prns well with improvement in agitation and prior to 
discharge, prn Haldol was tapered off and Ativan was tapered to 
0.5 mg po bid prn with recommendation to taper off as an 
outpatient.  
- In the setting of sobriety and initiation of the above 
medications, Mr. ___ condition improved significantly. He 
became less labile and irritable, with thought process that was 
significantly more linear, goal and future oriented with 
improved insight and judgment. Although he refused to return 
back to his therapist, ___, he was amenable to following up 
at the PREP program with a new therapist. Of note, during his 
hospitalization he consistently denied suicidal ideation or 
thoughts of self harm or HI/wanting to harm others.  
- Prior to his discharge, a family meeting was held with his 
mother, who was in agreement with the above discharge plan. 
. 
#. Cannabis use disorder: as noted above
- Although patient was ambivalent about ceasing to smoke 
cannabis, by time of discharge, he was in agreement to 
decreasing his use vs. ceasing to use cannabis. Of note, he 
received significant counseling on the deleterious effects of 
cannabis use on his general and psychiatric health. 
. 
#. Transaminitis: 
- On routine labs, patient showed mild transaminitis with repeat 
labs on ___ showing AST= 178 and ALT= 78. 
- Patient ___ follow up with PCP upon discharge. 
. 
#. EKG: preliminary read shows ___ 
- Patient ___ follow up with his PCP upon discharge, recommend 
consideration of echocardiogram as an outpatient 

 
Medications on Admission:
None
 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth twice a day Disp 
#*10 Tablet Refills:*0 
2.  PALIperidone Palmitate 156 mg IM ONCE Duration: 1 Dose 
Last dose received on ___.   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia 
Cannabis use disorder 

 
Discharge Condition:
98.1  PO 146/72   100  16  100%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: 'good'
A: slightly restricted, mostly euthymic, mood congruent, 
appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___